US06586423B2
(2,3-Dichloro-pyridin-4-yl)-methanol (13-2)
2,3-Dichloro-N-methyl-isonicotinamide (0.353 g, 1.72 mmol) was stirred in 6 mL DCM (not quite homogeneous). tBuONO (0.412 mL, 3.44 mmol) was added followed by the addition of two drops of TFA. After 3 h an additional 0.600 ML tBuONO (5.00 mmol) and three drops TFA were added. The resulting solution was stirred an additional 16 h. An additional 0.400 mL tBuONO (3.34 mmol) and 2 drops TFA were added. After an additional 4.5 h an 0.600 mL tBuONO (5.00 mmol) and 3 drops TFA were added. The reaction was stirred 3 days and was quenched with half-sat NaHCO3 (aq). The mixture was extracted 3× with DCM. The organic phases were dried over Na2SO4, filtered, and concentrated. The slightly impure N-nitrosoamide (0.425 g, 1.82 mmol) was stirred in 5 mL THF. NaBH4 (0.137 g, 3.63 mmol) was added and after 2 h the reaction was slowly quenched with 1M HCl until the bubbling stopped. The solution pH was adjusted to pH 9 with Na2CO3 (s). The mixture was extracted 3× with EtOAc. The organic phases were dried over Na2SO4, filtered, and concentrated to afford the titled compound in good purity. 1H NMR (CDCl3) δ8.32 (d, 1H, J=4.8 Hz), 7.51 (d, 1H, J=5.0 Hz), 4.82 (s, 2H), 2.34 (bs, 1H).

reactant | 2,3-Dichloro-N-methyl-isonicotinamide | 1.72 mmol, 0.353 g | ClC=1C(=C(C(=O)NC)C=CN1)Cl | C7H6Cl2N2O
reactant | N-nitrosoamide | 1.82 mmol, 0.425 g | N(=O)[NH-]
reactant | NaBH4 | 3.63 mmol, 0.137 g | [BH4-].[Na+]
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | TFA | two drops | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | TFA | three drops | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | TFA | 2 drops | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | TFA | 3 drops | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2,3-Dichloro-pyridin-4-yl)-methanol | ClC1=NC=CC(=C1Cl)CO | C6H5Cl2NO
